US09315521B2
To a solution of sodium borohydride (724 mg, 19.2 mmol) in anhydrous methanol (10 mL) was added a solution of 2-chloro-3-hydroxybenzaldehyde (1.0 g, 6.4 mmol) in anhydrous methanol (5 mL) at 0° C. The mixture was stirred for 3 hours at room temperature. Water was added and extracted 3 times with ethyl acetate. The combined organic phase was washed with brine and dried over sodium sulfate. After evaporation of the solvent, 2-chloro-3-(hydroxymethyl)phenol was obtained (710 mg, 70% yield) and used for next step without further purification; 1H NMR (400 MHz, DMSO-d6): δ 4.51 (d, J=5.8 Hz, 2H), 5.28 (t, J=5.8 Hz, 1H), 6.84-6.87 (m, 1H), 6.96-6.99 (m, 1H), 7.12 (t, J=7.8 Hz, 1H), 10.02 (s, 1H).

reactant | sodium borohydride | 19.2 mmol, 724 mg | [BH4-].[Na+]
reactant | 2-chloro-3-hydroxybenzaldehyde | 6.4 mmol, 1.0 g | ClC1=C(C=O)C=CC=C1O | C7H5ClO2
reactant | Water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 2-chloro-3-(hydroxymethyl)phenol | 70% yield | ClC1=C(C=CC=C1CO)O | C7H7ClO2
